US08420630B2
2-methyl-4,5,7,8-tetrahydro-1H-imidazo[4,5-d]azepine
3 equivalents (4.463 g) of sodium methoxide are placed in MeOH at ambient temperature, 7.8 g of acetamidine-hydrochloride are added and the mixture is stirred for 30 min. Then 10 g of N-benzyl-5-bromohexahydro-4-azepinone are added. After another 30 minutes an additional 2 eq. (2.976 g) of sodium methoxide are added to the mixture which is refluxed for 11 hours. After cooling to ambient temperature the mixture is fully concentrated by evaporation in vacuo, the material remaining is triturated with about 140 ml of isopropanol, filtered and the filtrate is evaporated down again. The crude product is taken up in 50 ml of 1N K2CO3 solution and extracted 3× with 40 ml of CH2Cl2. The organic phases are dried with MgSO4, filtered off and evaporated to dryness. The residue is chromatographed over silica gel (CH2Cl2/MeOH=87:13 to 70:30). Yield: 1.7 g

reactant | sodium methoxide | 4.463 g, 3 equivalents | C[O-].[Na+]
reactant | acetamidine-hydrochloride | 7.8 g | Cl.C(C)(=N)N
reactant | N-benzyl-5-bromohexahydro-4-azepinone | 10 g | C(C1=CC=CC=C1)N1CCC(C(CC1)Br)=O | C13H16BrNO
reactant | sodium methoxide | 2.976 g, 2 eq. | C[O-].[Na+]
solvent | MeOH | CO | CH4O
product | 2-methyl-4,5,7,8-tetrahydro-1H-imidazo[4,5-d]azepine | CC1=NC2=C(CCNCC2)N1 | C8H13N3
